US05344843
As in Example 306, a solution of (Z)-5-[2-(2-naphthalenyloxy)ethoxy]-alpha-[(2propenyloxy)imino]-2-thiopheneacetic acid ethyl ester (0.102 g) in methanol (2 mL) and tetrahydrofuran (1 mL) was treated with 4N sodium hydroxide (0.5 mL) and the stirred mixture was heated at 50° C. for 30 minutes. After the normal work up, the product was crystallized from ethyl acetate-hexane to furnish 0.057 g of (Z)-5-[2-(2-naphthalenyloxy)ethoxy]-alpha-[(2-propenyloxy)imino]-2-thiopheneacetic acid, mp 114°-115° C.

reactant | (Z)-5-[2-(2-naphthalenyloxy)ethoxy]-alpha-[(2propenyloxy)imino]-2-thiopheneacetic acid ethyl ester | 0.102 g | C(C)OC(/C(/C=1SC(=CC1)OCCOC1=CC2=CC=CC=C2C=C1)=N/OCC=C)=O | C23H23NO5S
reactant | sodium hydroxide | 4N, 0.5 mL | [OH-].[Na+]
solvent | methanol | 2 mL | CO | CH4O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | (Z)-5-[2-(2-naphthalenyloxy)ethoxy]-alpha-[(2-propenyloxy)imino]-2-thiopheneacetic acid | 0.057 g | C1=C(C=CC2=CC=CC=C12)OCCOC1=CC=C(S1)\C(\C(=O)O)=N/OCC=C | C21H19NO5S
